US04772600
N-[3-[(4-Bromobenzoyl)amino]-2-pyridinyl]glycine ethyl ester
To a stirred and chilled (10°-20° C.) solution of N-(3-amino-2-pyridinyl)glycine ethyl ester (14.7 g, 0.075 mole) [freshly prepared by the hydrogenation of a solution of N-(3-nitro-2-pyridinyl)glycine ethyl ester in tetrahydrofuran over 5% palladium on carbon at room temperature], triethylamine 8.1 g, 0.080 mole), and tetrahydrofuran (150 ml) was added (rapid drop) 4-bromobenzoyl chloride (6.9 g, 0.077 mole), followed by 100 ml of methylene chloride. The reaction mixture was stirred at room temperature for 2 hr and was filtered. The filtrate was concentrated in vacuo and the residue combined with the filter cake. The combined mixture was twice suspended in water and filtered. The filter cake was recrystallized from ethanol, giving 22.7 g of crystals (80%). Recrystallization of a 1.6-g samples from ethanol gave 1.5 g of white flocculent solid, mp 153°-154° C.

reactant | N-(3-amino-2-pyridinyl)glycine ethyl ester | 0.075 mole, 14.7 g | C(C)OC(CNC1=NC=CC=C1N)=O | C9H13N3O2
reactant | N-(3-nitro-2-pyridinyl)glycine ethyl ester | C(C)OC(CNC1=NC=CC=C1[N+](=O)[O-])=O | C9H11N3O4
reactant | triethylamine | 0.080 mole, 8.1 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromobenzoyl chloride | 0.077 mole, 6.9 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium on carbon | [Pd] | Pd
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[3-[(4-Bromobenzoyl)amino]-2-pyridinyl]glycine ethyl ester | 22.7 g, 80% | C(C)OC(CNC1=NC=CC=C1NC(C1=CC=C(C=C1)Br)=O)=O | C16H16BrN3O3
